US07473790B2
Step 1: (R)1-(5-Bromo-2-methoxy-phenyl)-ethanol
An oven dried 500 mL flask, was charged under nitrogen with (S)-2-methyl-CBS-oxazaborolidine 1M in toluene (2.18 mL) and dissolved in CH2Cl2 (100 mL). Me2-BH3 (13.10 mL, 26.20 mmol) was then added and cooled reaction to −30° C. then stirred for 15 minutes. 5-Bromo-2-methoxyacetophenone (5 g, 21.83 mmol) was dissolved in CH2Cl2 (10 mL) and slowly added via addition funnel to the previous solution. The resulting reaction was stirred at −30° C. for 1 hour. The solution was carefully quenched with MeOH, the solvent was removed in vacuo and the residue was purified by flash column chromatography (20% EtOAc in hexanes) to provide the desired product (5 g, 100%) as a clear oil. 1H NMR (400 MHz, CDCl3): δ 1.47 (d, J=6.41 Hz, 3H), 2.44 (d, J=5 Hz, 1H), 3.84 (s, 3H), 5.03-5.11 (m, 1H), 6.74 (d, J=8.7 Hz, 1H), 7.33 (dd, J=8.7, 2.5 Hz, 1H), 7.48 (d, J=2.5 Hz, 1H).

reactant | 5-Bromo-2-methoxyacetophenone | 21.83 mmol, 5 g | CC(=O)C1=C(C=CC(=C1)Br)OC | C9H9BrO2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (R)1-(5-Bromo-2-methoxy-phenyl)-ethanol | 5 g, 100% | BrC=1C=CC(=C(C1)[C@@H](C)O)OC | C9H11BrO2
